* /Users/dominikguz/Documents/LTspice/examples/Educational/fmMod_V4.asc
V12 NC_01 0 wavefile="/Users/dominikguz/Downloads/ltsound1.wav"
V2 N004 0 SINE(1 1 15000) AC 1
XU4 N003 0 0 0 NC_02 N002 0 RFMOD LTC1565 vvar=0 fvar=0 gvar=0
V4 N001 0 12
L1 N015 0 500µ
L4 N011 0 625µh
L5 0 N023 625µh
L6 0 N016 500µh
L7 N020 N009 625µh
L8 N009 N006 625µh
D1 N011 N020 D
D2 N020 N023 D
D3 N023 N006 D
D4 N006 N011 D
V9 N024 0 wavefile="/Users/dominikguz/Downloads/ltsound1.wav"
Q1 N010 N012 N021 0 2N2222
R2 N001 N010 12k
R13 N021 0 1k
R14 N012 0 10k
R15 N001 N012 110k
L9 RFMOD N012 1µ
C6 N012 0 1µ
V5 N022 0 SINE(0.7 0.25 10000000)
L10 N010 N014 0.0000252
C13 N014 0 1n
R16 N015 N022 50
XU6 0 N014 N009 0 TrafoLin LP=500u LS=500u KT=1
C5 N018 N017 1µ
R3 N018 0 1m
XU7 N018 N005 N001 0 N013 LTC6244HV
R4 N013 N005 10m
R5 0 N005 1m
R19 N017 N016 50
XU8 0 N007 N003 N002 N019 N007 N008 N002 NE555
V7 N002 0 5
C9 N019 N004 1µ
R20 N002 N008 500
C16 N007 N002 10n
R21 N007 N008 500
.model D D
.lib /Users/dominikguz/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/dominikguz/Library/Application Support/LTspice/lib/cmp/standard.bjt
* .ac lin 200 10e2 20e4 ;tran 100usec
.tran 100usec
k1 L1 L4 L5 .90
* Vin
* T37-6 core; 4:14:14 turns
k2 L6 L7 L8 .90
* Input matching network
* Vin
* T37-6 core; 4:14:14 turns
.lib LTC5.lib
.lib LTC1565.sub
.lib NE555.sub
.lib Trafos.Lib
.backanno
.end
